US06552018B1
Synthesis of 1-[1-(3-Chloro-2-pyridyl)-5-methyl-4-pyrazolyl]-3-[4-(3,5-difluorophenyl)-1-piperazinyl]-1-trans-propene Hydrochloride
In 40 ml of absolute ethanol was dissolved 0.72 g of 4-acetyl-1-(3-chloro-2-pyridyl)-5-methylpyrazole, and 1.38 g of 1-(3,5-difluorophenyl)piperazine, 7 ml of a 1N hydrochloric acid/ethanol solution, and 0.917 g of p-formaldehyde were added thereto, followed by refluxing for 20 hours. To the reaction mixture was further added 0.917 g of p-formaldehyde, followed by refluxing for 50 hours. After the reaction mixture was allowed to stand at room temperature for 21 hours, a saturated aqeous solution of sodium hydrogencarbonate was added thereto, and the mixture was extracted with chloroform three times. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by evaporation. The residue was subjected to silica gel column chromatography using a mixture of chloroform-methanol (50:1 by volume) as a developing solvent. The fraction containing the desired compound was concentrated to yield 0.72 g of the title compound.

reactant | 4-acetyl-1-(3-chloro-2-pyridyl)-5-methylpyrazole | 0.72 g | C(C)(=O)C=1C=NN(C1C)C1=NC=CC=C1Cl | C11H10ClN3O
reactant | 1-(3,5-difluorophenyl)piperazine | 1.38 g | FC=1C=C(C=C(C1)F)N1CCNCC1 | C10H12F2N2
reactant | hydrochloric acid ethanol | 1N | Cl.C(C)O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-[1-(3-Chloro-2-pyridyl)-5-methyl-4-pyrazolyl]-3-[4-(3,5-difluorophenyl)-1-piperazinyl]-1-trans-propene Hydrochloride | 0.72 g | Cl.ClC=1C(=NC=CC1)N1N=CC(=C1C)\C=C\CN1CCN(CC1)C1=CC(=CC(=C1)F)F | InChI=1S/C22H22ClF2N5.ClH/c1-16-17(15-27-30(16)22-21(23)5-2-6-26-22)4-3-7-28-8-10-29(11-9-28)20-13-18(24)12-19(25)14-20;/h2-6,12-15H,7-11H2,1H3;1H/b4-3+;
